US04057629
In a mixture of 80 ml of ethanol and 30 ml of pyridine, 6.54 g of methyl N-(3,4-dimethoxybenzyloxycarbonyl)-tyrosinate was dissolved. To the solution, 4.41 g of calcium chloride dihydrate was added. Then, to the mixture, 2.27 g of sodium borohydride was slowly added while stirring at room temperature. The resulting mixture was stirred for three hours and neutralized with 3% hydrochloric acid. After addition of 250 ml of water, the reaction mixture was concentrated in vacuo and the residue was extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was crystallized from ethyl acetate to give 3.82 g of N-(3,4-dimethoxybenzoyloxycarbonyl)-tyrosinol. The crystals were recrystallized from ethanol to give small needles with mp. 152°-155° C. Analysis, calculated for C19H23NO6C 63.14, H 6.42, N 3.88, found C 63.30, H 6.29, N 3.99.

reactant | methyl N-(3,4-dimethoxybenzyloxycarbonyl)-tyrosinate | 6.54 g | COC=1C=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)C=CC1OC | C20H23NO7
reactant | calcium chloride dihydrate | 4.41 g | O.O.[Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 2.27 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 250 ml | O | H2O
product | N-(3,4-dimethoxybenzoyloxycarbonyl)-tyrosinol | 3.82 g | COC=1C=C(C(=O)OC(=O)N[C@@H](CC2=CC=C(C=C2)O)CO)C=CC1OC | C19H21NO7
